US07579351B2
(S)-2-Cyclopropylmethyl-4-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
The title compound was synthesized in analogy to example 17, from (S)-4-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one (example 12, intermediate a)), sodium hydride and 1-(bromomethyl)cyclopropane, to give the desired product as a colorless oil (38%).

reactant | (S)-4-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | C[SiH](OC([C@@H]1CNC(C=2N1C=1C=CC(=CC1C2)OC2CCN(CC2)C(C)C)=O)C(C(C)C)(C)C)C | C28H45N3O3Si
reactant | sodium hydride | [H-].[Na+]
reactant | 1-(bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
product | (S)-2-Cyclopropylmethyl-4-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 38% | C1(CC1)CN1C(C=2N(C=3C=CC(=CC3C2)OC2CCN(CC2)C(C)C)[C@@H](C1)C(O[SiH](C)C)C(C(C)C)(C)C)=O | C32H51N3O3Si
